US04731375
[Preparation of 3-cyano-2-oxo-8-chromenyloxyacetic acid]
Ten ml of tetrahydrothiophene was cooled with ice, to which 13.4 g of pulverized anhydrous aluminium bromide was gradually added. After stirring for 5 minutes, a temperature was brought to room temperature and then a solution of 2.6 g of 3-cyano-2-oxo-8-chromenyloxyacetic acid methyl ester dissolved in 30 ml of methyl chloride was gradually added. After stirring for 2 hours, the reaction mixture was poured into a mixture of 20 ml of concentrated hydrochloric acid and 200 ml of ice water and a precipitate was filtered, which was recrystallized to give a desired compound.

reactant | tetrahydrothiophene | Ten ml | S1CCCC1 | C4H8S
reactant | aluminium bromide | 13.4 g | [Br-].[Al+3].[Br-].[Br-]
reactant | 3-cyano-2-oxo-8-chromenyloxyacetic acid methyl ester | 2.6 g | COC(C(=O)OC=1C=CC=C2C=C(COC12)C#N)=O | C13H9NO5
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | methyl chloride | 30 ml | CCl | CH3Cl
product | 3-cyano-2-oxo-8-chromenyloxyacetic acid | C(#N)C=1COC2=C(C=CC=C2C1)OC(C(=O)O)=O | C12H7NO5
